US06048864
6-Acetyl-5,6,7,8-tetrahydro-1,6-naphthyridine
To a solution of 5,6,7,8-tetrahydro-1,6-naphthyridine [Shiozawa et al Chem. Pharm. Bull., 32, 2522 (1984)] (4.9 g, 0.037 mol) in dichloromethane at 0° C. was added triethylamine (6.1 ml, 0.044 mol) and acetyl chloride (3.11 ml, 0.044 mol) dropwise and the reaction was allowed to warm to room temperature and stirred for a further 18 hours. The reaction mixture was partitioned between water and dichloromethane, the layers were separated and the aqueous layer was extracted twice more with dichloromethane. The combined organic layers were dried over MgSO4 and evaporated under reduced pressure to afford a residue which was purified on silica gel, eluting with 0.880 aqueous ammonia:methanol:dichloromethane (0.5:3.5:96, v/v). This afforded the title compound (58%) as an oil. Rf 0.60 (0.880 aqueous ammonia:methanol:dichloromethane, 2:14:84, v/v). 1H NMR (CDCl3): δ=2.15 (3H, s), 3.04 (2H, m), 3.75 and 3.90 (2H, 2×m), 4.60 and 4.70 (2H, 2×s), 7.10 (1H, m), 7.42 (1H, m), 8.42 (1H, m).

reactant | 5,6,7,8-tetrahydro-1,6-naphthyridine | 0.037 mol, 4.9 g | N1=CC=CC=2CNCCC12 | C8H10N2
reactant | triethylamine | 0.044 mol, 6.1 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.044 mol, 3.11 ml | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-Acetyl-5,6,7,8-tetrahydro-1,6-naphthyridine | 58% | C(C)(=O)N1CC=2C=CC=NC2CC1 | C10H12N2O
